US07820673B2
135a) tert-butyl 4-(1,3-thiazol-2-yl)amino-1-piperidinecarboxylate
To a solution of N-Boc-4-aminopiperidine (6.0 g) in THF (100 ml) was added benzoyl isothiocyanate (4.1 ml), and mixed for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in methanol, potassium carbonate was added thereto, and mixed at 50° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and then the residue was dissolved in ethyl acetate. The mixture was washed with 1 N hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution and saturated brine. The ethyl acetate solution was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the title compound as a pale yellow solid (7.3 g, 94%).

reactant | N-Boc-4-aminopiperidine | 6.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
reactant | benzoyl isothiocyanate | 4.1 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(1,3-thiazol-2-yl)amino-1-piperidinecarboxylate | 7.3 g, 94% | S1C(=NC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O2S
